US05254565
A mixture of 4-(2-chlorophenyl)-3-[3-(2,4-difluoro-phenyl)ureido]- 6,8-dimethylquinoline (1.1 g), m-chloroperbenzoic acid (1.08 g) and dichloromethane (15 ml) was refluxed for 20 hrs. The reaction mixture was washed with aqueous sodium sulfite solution, aqueous sodium hydrogen carbonate solution and water, successively. After being dried over anhydrous magnesium sulfate, the solvent was distilled off. The residue was recrystallized from a mixture of methanol and chloroform to give 4-(2-chlorophenyl)-3-[3-(2,4-difluorophenyl)ureido]-6,8-dimethylquinoline 1-oxide as pale yellow prisms. Yield 0.72 g (63.2%). m.p. 230°-232° C.

reactant | 4-(2-chlorophenyl)-3-[3-(2,4-difluoro-phenyl)ureido]- 6,8-dimethylquinoline | 1.1 g | ClC1=C(C=CC=C1)C1=C(C=NC2=C(C=C(C=C12)C)C)NC(=O)NC1=C(C=C(C=C1)F)F | C24H18ClF2N3O
reactant | m-chloroperbenzoic acid | 1.08 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(2-chlorophenyl)-3-[3-(2,4-difluorophenyl)ureido]-6,8-dimethylquinoline 1-oxide | ClC1=C(C=CC=C1)C1=C(C=[N+](C2=C(C=C(C=C12)C)C)[O-])NC(=O)NC1=C(C=C(C=C1)F)F | C24H18ClF2N3O2
